US04156609
3-Chloro-5-(3-fluorosulfonylphenylazo)-2-hydroxy benzaldehyde
m-Aminobenzenesulfonyl fluoride hydrochloride (21.1 g, 0.099 mol) was slurried in hot 10% HCl (300 ml) and then cooled to 0° C. Sodium nitrite (7.0 g, 0.1 mol) was dissolved in 30 ml water and added dropwise to the acidic solution. Vigorous stirring was required to prevent the slurry from coagulating. The diazonium slurry was then added slowly to 500 ml of pyridine containing 3-chloro-2-hydroxy-benzaldehyde (16.0 g, 0.10 mol) at 0° C. The mixture was stirred 30 minutes and then slowly added to 1500 ml ice and hydrochloric acid. The resulting precipitate coagulated into one lump. The liquid was decanted off and the remaining tarry solid crushed and slurried in 50% HCl. The resulting solid was filtered off, washed with water and air dried, (21.1 g). Upon standing 72 hours, the decanted solution yielded an additional 2.8 g. Yield: 23.8 g (70%).

reactant | m-Aminobenzenesulfonyl fluoride hydrochloride | 0.099 mol, 21.1 g | Cl.NC=1C=C(C=CC1)S(=O)(=O)F
reactant | HCl | 300 ml | Cl | ClH
reactant | Sodium nitrite | 0.1 mol, 7.0 g | N(=O)[O-].[Na+]
reactant | 3-chloro-2-hydroxy-benzaldehyde | 0.10 mol, 16.0 g | ClC=1C(=C(C=O)C=CC1)O | C7H5ClO2
solvent | water | 30 ml | O | H2O
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 3-Chloro-5-(3-fluorosulfonylphenylazo)-2-hydroxy benzaldehyde | ClC=1C(=C(C=O)C=C(C1)N=NC1=CC(=CC=C1)S(=O)(=O)F)O | C13H8ClFN2O4S
